US04985582
A mixture of cyclohexanone (150 ml.), 5-t-butyl-2,2-dimethyl-5-hydroxymethyl-1,3-dioxane methanesulphonate (17.5 g.) (see synthesis of 2,2-dimethyl-5-ethyl-5-hydroxymethyl-1,3-dioxane methanesulphonate and ref. 4) and sodium iodide (12 g.) was refluxed, with stirring, for 24 hours. The solvent was removed in vacuo and the resulting oil was poured into water. The aqueous mixture was extracted with diethyl ether. The ethereal extracts were washed with 5% aqueous sodium thiosulphate solution and then water. The ethereal extracts were dried over anhydrous magnesium sulphate and then evaporated in vacuo. The residue was purified by column chromatography on silica, eluting with hexane. 3-t-Butyl-3-iodomethyl-(1,5-dioxaspiro[5,5]undecane) was obtained as a colourless oil (14 g.) Gas-liquid chromatography (g.l.c.): OV210 at 185° produced one peak.

reactant | 5-t-butyl-2,2-dimethyl-5-hydroxymethyl-1,3-dioxane methanesulphonate | 17.5 g | CS(=O)(=O)O.C(C)(C)(C)C1(COC(OC1)(C)C)CO
reactant | sodium iodide | 12 g | [I-].[Na+]
reactant | cyclohexanone | 150 ml | C1(CCCCC1)=O | C6H10O
product | 3-t-Butyl-3-iodomethyl-(1,5-dioxaspiro[5,5]undecane) | C(C)(C)(C)C1(COC2(OC1)CCCCC2)CI | C14H25IO2
